US07528137B2
(2-{1-[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-yl}-ethylamino)-acetic acid tert-butyl ester
A solution of 2-{1-[4-(2-Amino-ethyl)-2-p-tolyl-imidazol-1-yl]-2-methyl-propyl}-3-benzyl-7-chloro-3H-quinazolin-4-one (181 mg, 0.343 mmol), potassium carbonate (47 mg., 0.343 mmol), and tert-butyl bromoacetate (67 mg., 0.343 mmol) in DMF (2.0 mL) was stirred at room temperature for 4.5 h. The reaction was diluted with water and the resulting white precipitate was filtered and purified by flash chromatography (silica gel, 95:5 methylene chloride:methanol) to provide the title compound as a white solid (109 mg., 50%). MS(ES+) m/e 640 [M+H]+.

reactant | 2-{1-[4-(2-Amino-ethyl)-2-p-tolyl-imidazol-1-yl]-2-methyl-propyl}-3-benzyl-7-chloro-3H-quinazolin-4-one | 0.343 mmol, 181 mg | NCCC=1N=C(N(C1)C(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)C1=CC=C(C=C1)C | C31H32ClN5O
reactant | potassium carbonate | 0.343 mmol, 47 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 0.343 mmol, 67 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2-{1-[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-yl}-ethylamino)-acetic acid tert-butyl ester | 109 mg, 50% | C(C)(C)(C)OC(CNCCC=1N=C(N(C1)C(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)C1=CC=C(C=C1)C)=O | C37H42ClN5O3
